US04919706
Benzylmercaptan (24.8 g) was added dropwise to a solution of 10.8 g of sodium methoxide in 100 ml ethanol. After stirring 15 minutes, the ehtanolic solution of sodium benzylmercaptide was added dropwise to a solution of 30.8 g 2,4-dichlorothiazole [prepared by the method of P. Reynaud et al., Bull. Soc. Chim. France, 1735 (1962)], resulting in a temperature increase of 28° to 48°. When the exotherm subsided, the suspension was refluxed 1 hour, then the solvent was evaporated. Cold water (300 ml) was added to the oily residue, and the aqueous mixture was extracted with methylene chloride. The organic solution was washed with water, followed by saturated brine, then dried over magnesium sulfate, filtered and the solvent evaporated to give 43.8 g of 4-chloro-2-phenylmethylthiothiazole as a brown oil.

reactant | Benzylmercaptan | 24.8 g | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium methoxide | 10.8 g | C[O-].[Na+]
reactant | sodium | [Na] | Na
reactant | 2,4-dichlorothiazole | 30.8 g | ClC=1SC=C(N1)Cl | C3HCl2NS
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-chloro-2-phenylmethylthiothiazole | 43.8 g | ClC=1N=C(SC1)SCC1=CC=CC=C1 | C10H8ClNS2
